US05910506
Synthesis of 2-carbamoyloxymethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1-(3-(2-pyridyl)propyl)-1H-imidazole (Compound I-130).
In 10 ml of tetrahydrofuran was dissolved 110 mg of 5-(3,5-dichlorophenylthio)-4-isopropyl-2-hydroxymethyl-1-(3-(2-pyridyl)propyl)-1H-imidazole, and the mixture was cooled to -40° C. Under stirring, 45.1 μl of trichloroacetylisocyanate was added, the mixture was allowed to warm up to room temperature, and stirred for 30 minutes. Added were 100 μl of triethylamine, 600 μl of water and 600 μl of methanol, and the mixture was stirred at 70° C. for 1 hour. After completion of the reaction, the solution was distilled off under reduced pressure, an aqueous sodium hydrogen carbonate solution was added, extracted with ethyl acetate, the extract was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate:methanol=10:1)to give 80 mg of Compound I-130 (yield 83%).

reactant | 5-(3,5-dichlorophenylthio)-4-isopropyl-2-hydroxymethyl-1-(3-(2-pyridyl)propyl)-1H-imidazole | 110 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1CCCC1=NC=CC=C1)CO)C(C)C | C21H23Cl2N3OS
reactant | trichloroacetylisocyanate | 45.1 μl | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | water | 600 μl | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 600 μl | CO | CH4O
product | 2-carbamoyloxymethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1-(3-(2-pyridyl)propyl)-1H-imidazole | 80 mg, yield 83% | C(N)(=O)OCC=1N(C(=C(N1)C(C)C)SC1=CC(=CC(=C1)Cl)Cl)CCCC1=NC=CC=C1 | C22H24Cl2N4O2S
